datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12]/[CH:11]=[CH:10]/C.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[CH:11][CH:10](C)[CH:20](C)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
"C1=CN(C[C@@H]2CCC[NH:10]2)C=N1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=CC=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCC[C@H]2CN2C=CN=C2)[C:21](C[N+]2=CC=CC=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"COC1=CC=CC=C1[P:10](C1=CC=CC=C1OC)C1=C(OC)C=CC=C1.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>COC1=CC=CC=C1[P+:10](C1=CC=CC=C1OC)(C1=C(OC)C=CC=C1)[CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N:10]2.CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N+:10]2[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CNC3=CC=CC=C23)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C2=CC=CC=C2)[O:12]1>>C1=CC=C([CH2:10][CH:20]2C[O:33][C:22]([O-:23])=[CH:21]2)C=C1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)O1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)O1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].[H:10][Sn:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>CC[O:33][C:22](=[CH:21][CH2:20][H:10])[O-:23].[Sn+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[CH:10]=[C:11]([O-:12])[O:82]1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[Si](C)(C)O[N:12](O[Si](C)(C)C(C)(C)C)[C:11](C)=[CH2:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C:11](C)=[N+:12](O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH:20]Cl.[S-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]1>>C[N:21](C)[CH:20](Cl)[S:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]1 10=20;20,21=21"
"C[N+:21](C1=CC=CC=C1)=[CH2:20].C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C:11](C)=[CH2:10]>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C+:11](C)[CH2:10][CH2:20][N:21](C)C1=CC=CC=C1 10,11=10,20;20,21=21"
"CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)O1.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N+:12]2=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]2CC[C:22]([O-:23])=[C:21]2C)O1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])/[CH:62]=[CH:63]/C.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[C+:11]([CH2:10][C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)/[CH:62]=[CH:63]/C 10,11=10,20"
C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2>>CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N+:10]2[CH:20]1[C:31]2=[C:32](C=CC=C2)[CH:33]=[CH:34][C:35]2=[C:36]1C=CC=C2 10=20
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCOCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10](C1=CC=CC=C1)[C:11](=[N+:12]1CCOCC1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
